US06417192B1
9-Bromo-2-(4-fluorophenyl)-1-nonene
To a solution of butyl lithium (2.5M. 3.2 ml) in anhydrous tetrahydrofuran (75 ml) was added triphenylmethylphosphonium bromide (2.86 g) in portions over 10 min. The mixture was stirred at 25° C. for 3 h and a solution of 8-bromo-1-(4-fluorophenyl)octan-1-one (1.20 g) in dry tetrahydrofuran (15 ml) added dropwise over 5 min. After stirring at 25° C. for 1 h, the mixture was heated at reflux for 24 h. The mixture was evaporated under reduced pressure and partitioned between diethyl ether (70 ml) and water (4×30 ml). The organic layer was washed with brine and dried over magnesium sulfate. Removal of the solvent under reduced pressure gave an oil that was chromatographed on silica gel using 5% diethyl ether in hexane. This gave 9-bromo-2-(4-fluorophenyl)-1-nonene (0.75 g). 1H-NMR (CDCl3) δ 1.2-1.55 (8H, m), 1.80 (2H, m), 2.46 (2H, t), 3.39 (2H, t), 5.03 (1H, bs), 5.20 (1H, bs), 7.03 (2H, m) and 7.3-7.45 (2H, m).

reactant | butyl lithium | 2.5M, 3.2 ml | C(CCC)[Li]
reactant | triphenylmethylphosphonium bromide | 2.86 g | [Br-].C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)[PH3+]
reactant | 8-bromo-1-(4-fluorophenyl)octan-1-one | 1.20 g | BrCCCCCCCC(=O)C1=CC=C(C=C1)F | C14H18BrFO
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 9-Bromo-2-(4-fluorophenyl)-1-nonene | BrCCCCCCCC(=C)C1=CC=C(C=C1)F | C15H20BrF
